US05364875
Preparation of 6-[N-(5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl)-N-heptylamino]-purine
A solution of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-heptanamine (5.30 g, 12.2 mmol), 6-chloropurine (1.90 g, 12.3 mmol), and diisopropylamine (3.00 mL, 17.2 mmol) in acetonitrile (50 mL) was heated to mild reflux for 18 hours, and then cooled and poured into water (200 mL). This was extracted with methylene chloride (2×200 mL), and the extracts were combined, dried over anhydrous potassium carbonate, filtered and evaporated. The residue was separated by flash chromatography (ethyl acetate) to afford the title product as a solid, m.p. 58°-60° C. 1H NMR (CDCl3): 10.66 (2H, br s); 8.30 (1H, s); 7.83 (1H, s); 7.67-7.18 (10H, m); 4.10 (4H, br); 3.08 (2H, t, J=7.1 Hz); 1.80-1.20 (16 H, m); 0.89 (3H, t, J=6.6 Hz). High-resolution mass spectrum: calc. for C32H39N7S 554.3066, obs. 554.3053, diff. 2.3 ppm.

reactant | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-heptanamine | 12.2 mmol, 5.30 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNCCCCCCC | C27H37N3S
reactant | 6-chloropurine | 12.3 mmol, 1.90 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | diisopropylamine | 17.2 mmol, 3.00 mL | C(C)(C)NC(C)C | C6H15N
reactant | water | 200 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-[N-(5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl)-N-heptylamino]-purine | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCN(CCCCCCC)C1=C2NC=NC2=NC=N1 | C32H39N7S
